US04342765
To a solution of 2-(2-methylguanidino)-4-(3-aminocyclohexyl)thiazole (0.3 g.) in ethanol (50 ml.) was added methylisothiocyanate (0.1 g.) and the solution heated under reflux for 2 hours. Evaporation of the reaction mixture and crystallisation of the residue from methanol/ethyl acetate gave 2-(2-methylguanidino)-4-[3-(3-methylthioureido)cyclohexyl]thiazole (0.35 g.), m.p. 214°-215° (decomp.).

reactant | 2-(2-methylguanidino)-4-(3-aminocyclohexyl)thiazole | 0.3 g | CN=C(NC=1SC=C(N1)C1CC(CCC1)N)N | C11H19N5S
reactant | methylisothiocyanate | 0.1 g | CN=C=S | C2H3NS
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(2-methylguanidino)-4-[3-(3-methylthioureido)cyclohexyl]thiazole | 0.35 g | CN=C(NC=1SC=C(N1)C1CC(CCC1)NC(=S)NC)N | C13H22N6S2
